*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*																*
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating			*
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.												*
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models 	    *
* without prior notice.                                         *
*                                                               *
*****************************************************************

.SUBCKT 2STBN15D100 1 2 3
 
QDRV 1 2 4 QDRV
 
QFIN 1 4 3 QFIN
 
DR 3 1 DR
 
R1 2 4 8000
 
R2 4 3 150
 
.MODEL QDRV NPN
+Is    = 0.404E-15
+Bf    = 179.376
+Vaf   = 54.144
+Ikf   = 8.419
+Ise   = 0.341E-12
+Ne    = 1.979
+Br    = 1.169
+Var   = 60.3582
+Ikr   = 0.923E-01
+Isc   = 0.176E-13
+Nc    = 1.231
+Nk    = 0.985
+Rb    = 0.714
+Rbm   = 0.984E-01
+Nf    = 1.003
+Re    = 0.154
+Rc    = 0.867E-02
+Qco   = 0.222E-09
+Rco   = 0.387
+Vo    = 25.067
+Gamma = 0.543E-09
+Cjc   = 0.546E-10
+Vjc   = 0.804
+Mjc   = 0.461
+Cje   = 0.629E-09
+Vje   = 0.643
+Mje   = 0.329
+Fc    = 0.551
+Tr    = 0.417E-07
+Tf    = 0.668E-08
+Itf   = 0.444
+Vtf   = 21.551
+Xtf   = 0.907
 
.MODEL QFIN NPN
+Is    = 0.156E-13
+Bf    = 178.354
+Vaf   = 50.595
+Ikf   = 6.441
+Ise   = 0.626E-14
+Ne    = 1.981
+Br    = 1.372
+Var   = 58.874
+Ikr   = 0.137
+Isc   = 0.106E-14
+Nc    = 1.799
+Nk    = 0.717
+Rb    = 2.101
+Rbm   = 0.994E-01
+Nf    = 0.995
+Re    = 0.221E-01
+Rc    = 0.173
+Qco   = 0.278E-10
+Rco   = 0.318
+Vo    = 23.891
+Gamma = 0.224E-09
+Cjc   = 0.552E-13
+Vjc   = 0.608
+Mjc   = 0.377
+Cje   = 0.321E-12
+Vje   = 0.613
+Mje   = 0.325
+Fc    = 0.599
+Tr    = 0.321E-07
+Tf    = 0.439E-08
+Itf   = 0.738
+Vtf   = 2.031
+Xtf   = 1.309
 
.MODEL DR D
+IS=1E-16
+BV=100
 
.ENDS 2STBN15D100
